US04021229
Preparation of N-(3-bromopropyl) methanesulfonamide
To a cooled solution of 2-bromopropylamine hydrobromide (43.8 g., 0.20 mole) in pyridine (100 ml.) was added over a period of 40 minutes methanesulfonyl chloride (15.2 ml., 0.20 mole). The reaction mixture was stirred for 15 minutes and then diluted with ether. The remaining solid was filtered off, washed with about 200 ml. of acetone. The filtrate and washes were concentrated in vacuo. The residue was extracted with three 100 ml. portions of acetone. Upon evaporation of the acetone, 30.4 g. of a thick oil representing the title compound. The product was confirmed by infrared analysis and nuclear magnetic resonance.

reactant | 2-bromopropylamine hydrobromide | 0.20 mole, 43.8 g | Br.BrC(CN)C
reactant | methanesulfonyl chloride | 0.20 mole, 15.2 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
product | N-(3-bromopropyl) methanesulfonamide | BrCCCNS(=O)(=O)C | C4H10BrNO2S
